US07456195B2
(2-(4,4-Difluoropiperidin-1-ylsulfonyl)phenyl)methanamine hydrochloride (81 mg) was prepared in two steps from commercially available 2-cyanobenzene-1-sulfonyl chloride (201 mg) and 4,4-difluoropiperidine (316 mg) in 25% overall yield following a procedure analogous to that used in the preparation 210A. LC-MS: 291.19 (M+H)+.

reactant | 2-cyanobenzene-1-sulfonyl chloride | 201 mg | C(#N)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | 4,4-difluoropiperidine | 316 mg | FC1(CCNCC1)F | C5H9F2N
product | (2-(4,4-Difluoropiperidin-1-ylsulfonyl)phenyl)methanamine hydrochloride | 81 mg | Cl.FC1(CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)CN)F | InChI=1S/C12H16F2N2O2S.ClH/c13-12(14)5-7-16(8-6-12)19(17,18)11-4-2-1-3-10(11)9-15;/h1-4H,5-9,15H2;1H
